US08563505B2
(S)-2-((2,2-dimethylhex-5-enyloxy)carbonylamino)-3,3-dimethylbutanoic acid (62 mg, 0.217 mmol), DIEA (0.076 mL, 0.434 mmol) and HATU (61 mg, 0.159 mmol) were added to a solution of (2S,4R)-methyl 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-methoxypyrrolidine-2-carboxylate (55 mg, 0.145 mmol) in DCM (3 mL). The reaction was stirred at r.t. for 2 hrs. The reaction was evaporated and purified on the Biotage (10-45% EtOAc:Hex) to give (2S,4R)-methyl 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-1-((S)-2-((2,2-dimethylhex-5-enyloxy)carbonylamino)-3,3-dimethylbutanoyl)-4-methoxypyrrolidine-2-carboxylate (61 mg, 0.094 mmol, 65% yield) as a yellow oil. LCMS: rt=2.00 min. [M-OMe]+=616 and [M+H]+=648; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220.

reactant | (S)-2-((2,2-dimethylhex-5-enyloxy)carbonylamino)-3,3-dimethylbutanoic acid | 0.217 mmol, 62 mg | CC(COC(=O)N[C@H](C(=O)O)C(C)(C)C)(CCC=C)C | C15H27NO4
reactant | DIEA | 0.434 mmol, 0.076 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.159 mmol, 61 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-methyl 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-methoxypyrrolidine-2-carboxylate | 0.145 mmol, 55 mg | CN(C1=CC(=C(C=C1)C1=CC=C(C=C1)[C@@]1(C[C@H](NC1)C(=O)OC)OC)C=C)C | C23H28N2O3
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-methyl 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-1-((S)-2-((2,2-dimethylhex-5-enyloxy)carbonylamino)-3,3-dimethylbutanoyl)-4-methoxypyrrolidine-2-carboxylate | 0.094 mmol, 61 mg, 65% yield | CN(C1=CC(=C(C=C1)C1=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C([C@H](C(C)(C)C)NC(=O)OCC(CCC=C)(C)C)=O)C(=O)OC)OC)C=C)C | C38H53N3O6
